US09290485B2
b) 1-(2-Hydroxy-1-phenylethyl)-1H-pyrazole-4-carboxylic acid
A mixture of ethyl 1-(2-hydroxy-1-phenylethyl)-1H-pyrazole-4-carboxylate (110 mg, 0.423 mmol) in EtOH (2 ml) was treated with NaOH (2N, 0.634 ml, 1.268 mmol) and heated to 90° C. for 30 min. The reaction mixture was acidified with 1N HCl, and all volatiles were removed in vacuo. The remaining residue was suspended in MeOH (10 ml) and filtered. Concentration of the filtrate afforded the title compound. LCMS RtM=1.58 min, [M+H]+=233.2.

reactant | ethyl 1-(2-hydroxy-1-phenylethyl)-1H-pyrazole-4-carboxylate | 0.423 mmol, 110 mg | OCC(C1=CC=CC=C1)N1N=CC(=C1)C(=O)OCC | C14H16N2O3
reactant | NaOH | 1.268 mmol, 2N, 0.634 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 2 ml | CCO | C2H6O
product | 1-(2-Hydroxy-1-phenylethyl)-1H-pyrazole-4-carboxylic acid | OCC(C1=CC=CC=C1)N1N=CC(=C1)C(=O)O | C12H12N2O3
